* C:\Users\hhint\Desktop\Flyback_Converter_1st_Draft.asc
V1 N001 0 28V
L1 N005 N002 422.64µH
L2 N003 0 46.4µH
D1 N003 N004 B540C
C1 N004 0 56µF
M1 N005 N006 0 0 BSC265N10LSF
V2 N006 0 PULSE(0 12 0 1n 1n {D*Ts} {Ts})
R1 N004 0 1.25
L3 N002 N001 8.4µH
.model D D
.lib C:\Users\hhint\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hhint\Documents\LTspiceXVII\lib\cmp\standard.mos
K L1 L2 1
.param D = 0.373
.param Ts = 10µs
.tran 0 5m 0 10n
.backanno
.end
